US06399616B1
Step A: 1-Acetyl-4-hydroxy-4-(tributylstannyl)piperidine
Under an inert atmosphere, 0.32 mmol of n-butyllithium (1.6M in hexane) is added over a period of 5 minutes to a solution of 0.32 mmol of diisopropylamine in 750 ml of tetrahydrofuran at 0° C. After stirring the mixture for 15 minutes, 0.32 mmol of tri-n-butyltin hydride is added. After 1 hour 30 minutes at 0° C., the reaction mixture is cooled to −70° C. and 0.26 mmol of N-acetylpiperidone in 225 ml of tetrahydrofuran is added and the reaction mixture is then diluted by adding 380 ml of tetrahydrofuran. After stirring for 2 hours 30 minutes, the reaction mixture is hydrolysed by the addition of 200 ml of an aqueous 10% solution of NaH2PO4, brought to 0° C., and then diluted with 2 litres of ether and 1 litre of water. After decanting and washing with a saturated NaCl solution, the organic phase is dried and filtered and then concentrated under reduced pressure. Chromatography on silica gel (dichloromethane) enables the expected product to be isolated.

reactant | n-butyllithium | 0.32 mmol, 1.6M | C(CCC)[Li]
reactant | diisopropylamine | 0.32 mmol | C(C)(C)NC(C)C | C6H15N
reactant | tri-n-butyltin hydride | 0.32 mmol | C(CCC)[SnH](CCCC)CCCC
reactant | N-acetylpiperidone | 0.26 mmol | C(C)(=O)N1C(CCCC1)=O | C7H11NO2
reactant | tetrahydrofuran | 750 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 225 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 380 ml | O1CCCC1 | C4H8O
solvent | ether | 2 litres | CCOCC | C4H10O
solvent | water | 1 litre | O | H2O
product | 1-Acetyl-4-hydroxy-4-(tributylstannyl)piperidine | C(C)(=O)N1CCC(CC1)([Sn](CCCC)(CCCC)CCCC)O | InChI=1S/C7H12NO2.3C4H9.Sn/c1-6(9)8-4-2-7(10)3-5-8;3*1-3-4-2;/h10H,2-5H2,1H3;3*1,3-4H2,2H3;
